US04904674
3-[5-[2-(Benzo[b]thiophen-3-yl)ethenyl]thiophen-2-yl]-2-propenoic acid
A stirred mixture of 3-[5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophen-2-yl]-2-propenoic acid ethyl ester (5.47 g), 1N aqueous potassium hydroxide solution (50 ml) and tetrahydrofuran (60 ml) was heated at reflux overnight. The mixture was concentrated in vacuo, and the residue was acidified with 10% hydrochloric acid. The mixture was extracted with dichloromethane and ethyl acetate. The combined organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was extracted (Soxhlet) overnight with ethyl acetate. The extract was reduced to a volume of 100 ml and cooled to give 2.2 g (44%) of product, mp 197°-198° C. (dec.).

reactant | 3-[5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophen-2-yl]-2-propenoic acid ethyl ester | 5.47 g | C(C)OC(C=CC=1SC(=CC1)C=CC=1C2=C(SC1)C=CC=C2)=O | C19H16O2S2
reactant | potassium hydroxide | 1N, 50 ml | [OH-].[K+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-[5-[2-(Benzo[b]thiophen-3-yl)ethenyl]thiophen-2-yl]-2-propenoic acid | 2.2 g, 44% | S1C2=C(C(=C1)C=CC1=CC=C(S1)C=CC(=O)O)C=CC=C2 | C17H12O2S2
